US07119205B2
3-[4-(4-Azidobut-1-ynyl)phenyl]-4-hydroxy-6-oxo-6,7-dihydrothieno[2,3-b]pyridine-5-carbonitrile
To a solution of 4-hydroxy-3-[4-(4-hydroxy-but-1-ynyl)-phenyl]-6-oxo-6,7-dihydro-thieno[2,3-b]pyridine-5-carbonitrile (0.23 g, 0.7 mmol) in 5 mL DMF was added triethylamine (0.28 mL, 2 mmol), followed by MsCl (85 μL, 1 mmol). The mixture was stirred at rt for 2 hr, after which NaN3 (0.36 g, 5.6 mmol) was added, and heated to 90° C. overnight. Solvent was removed in vacuo and purified via reverse phase HPLC to afford the titled compound. MS (ESI) m/e 360 (M−H)+; 1H NMR (300 MHz, DMSO-d6): δ 2.76 (t, J=6.61 Hz, 2H), 3.52 (t, J=6.44 Hz, 2H), 6.67 (s, 1H), 7.29 (d, J=8.48 Hz, 2H), 7.44 (d, J=8.48 Hz, 2H).

reactant | 4-hydroxy-3-[4-(4-hydroxy-but-1-ynyl)-phenyl]-6-oxo-6,7-dihydro-thieno[2,3-b]pyridine-5-carbonitrile | 0.7 mmol, 0.23 g | OC=1C2=C(NC(C1C#N)=O)SC=C2C2=CC=C(C=C2)C#CCCO | C18H12N2O3S
reactant | triethylamine | 2 mmol, 0.28 mL | C(C)N(CC)CC | C6H15N
reactant | MsCl | 1 mmol, 85 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | NaN3 | 5.6 mmol, 0.36 g | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 3-[4-(4-Azidobut-1-ynyl)phenyl]-4-hydroxy-6-oxo-6,7-dihydrothieno[2,3-b]pyridine-5-carbonitrile | N(=[N+]=[N-])CCC#CC1=CC=C(C=C1)C1=CSC=2NC(C(=C(C21)O)C#N)=O | C18H11N5O2S
